US04663453
4,9-Dibromo-6-(4-methyl-1-piperazinyl)benzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
A mixture 4,9-dibromo-6-(4-methyl-1-piperazinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]-benzodiazepine (4.5 g, 9.45 mmoles) and manganese(IV) dioxide (7.0 g) in chloroform (150 ml) was heated under reflux for 3.5 hours. An additional 4.5 g of manganese dioxide was added. The reaction mixture was stirred overnight at room temperature. The mixture was filtered through celite and the filtrate was concentrated. The residue was purified by flash chromatography over a silica gel column (140 gm), eluted with 2% methanol:98% dichloromethane (2 l). The appropriate fractions were collected and evaporated. Crystallization of the residue from isopropanol (10 ml) yielded 3.37 g (75%) of product, mp 158°-159° C.

reactant | 4,9-dibromo-6-(4-methyl-1-piperazinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]-benzodiazepine | 9.45 mmoles, 4.5 g | BrC=1C=C2C3=C(C(=NC4=C(N3CC2)C=CC(=C4)Br)N4CCN(CC4)C)C1 | C20H20Br2N4
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese(IV) dioxide | 7.0 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 4.5 g | [O-2].[O-2].[Mn+4]
product | 4,9-Dibromo-6-(4-methyl-1-piperazinyl)benzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 3.37 g, 75% | BrC=1C=C2C3=C(C(=NC4=C(N3C=C2)C=CC(=C4)Br)N4CCN(CC4)C)C1 | C20H18Br2N4
